US09303023B2
N-(1-(2-((1-methyl-1H-benzo[d]imidazol-2-yl)amino)ethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide
To a solution of N-(1-(2-oxoethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide (157 mg, 0.45 mmol) in MeCN (1 mL) and DCM (0.8 mL) was added 1-methyl-1H-benzo[d]imidazol-2-amine (66 mg, 0.45 mmol) followed by STAB (190 mg, 0.90 mmol) and 1 drop of AcOH. After stirring at rt for 18 h, the reaction mixture was filtered and directly purified by prep. HPLC. LC-MS conditions D: tR=0.77 min, [M+H]+=442.3.

reactant | N-(1-(2-oxoethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | 0.45 mmol, 157 mg | O=CCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C16H14N4O3
reactant | 1-methyl-1H-benzo[d]imidazol-2-amine | 0.45 mmol, 66 mg | CN1C(=NC2=C1C=CC=C2)N | C8H9N3
solvent | MeCN | 1 mL | CC#N | C2H3N
solvent | DCM | 0.8 mL | C(Cl)Cl | CH2Cl2
catalyst | AcOH | 1 drop | CC(=O)O | C2H4O2
product | N-(1-(2-((1-methyl-1H-benzo[d]imidazol-2-yl)amino)ethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | CN1C(=NC2=C1C=CC=C2)NCCN2N=CC(=C2)NC(=O)C=2N=COC2C=2C=C(C=CC2)C | C24H23N7O2
